US07829103B2
I-6—Chemical Methylation of Lysine Residues
smegmatis or M. bovis BCG cultures with an optical density measured at 600 nm (OD600) of 0.5 were centrifuged at 10000 g for 15 min. The pellet was re-suspended in 10 ml of 50 mM Hepes buffer (pH 7.4) containing 1 mM of AEBSF (Pefabloc Sc, Roche) and 15% (v/v) of glycerol (buffer A). The cells then underwent continuous sonication for 10 minutes at 4° C. using a Branson type sonicator, the outlet power being adjusted to 5. The total cell lysate was centrifuged at 4° C. at 20000 g for 15 min. For the methylation tests, 300 μl of total clarified lysate containing 1 mg of protein per ml was mixed with 40 μl of [methyl-14C]AdoMet (60 mCi/mmol, Amersham Pharmacia Biotech), 100 μl of recombinant HBHA purified on a heparin column to 0.5 mg/ml, 5 μl of 1 M MgCl2 and 55 μl of buffer A. The methylation tests were carried out at 25° C. 100 μl samples were removed at intervals to verify the degree of methylation of the recombinant HBHA by autoradiography.

reactant | AEBSF | 1 mM | C1=CC(=CC=C1CCN)S(=O)(=O)F | C8H10FNO2S
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | Hepes | 50 mM, 10 ml, pH 7.4 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
